US07989445B2
tert-butyl 2-acetyl-1-[4-(ethoxycarbonyl)phenyl]-2-methylhydrazinecarboxylate
tert-Butyl 2-acetyl-1-[4-(ethoxycarbonyl)phenyl]hydrazinecarboxylate (606 mg) was dissolved in DMF (10 ml), and methyl iodide (0.14 ml) and then sodium hydride (60%, 83 mg) were added at 0° C. The mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, and washed with water and then saturated brine. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1 (volume ratio)→1:1 (volume ratio)), and further recrystallized from ethyl acetate-hexane to give the title compound (608 mg) as colorless crystals.

reactant | tert-Butyl 2-acetyl-1-[4-(ethoxycarbonyl)phenyl]hydrazinecarboxylate | 606 mg | C(C)(=O)NN(C(=O)OC(C)(C)C)C1=CC=C(C=C1)C(=O)OCC | C16H22N2O5
reactant | methyl iodide | 0.14 ml | CI | CH3I
reactant | sodium hydride | 83 mg | [H-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 2-acetyl-1-[4-(ethoxycarbonyl)phenyl]-2-methylhydrazinecarboxylate | 608 mg | C(C)(=O)N(N(C(=O)OC(C)(C)C)C1=CC=C(C=C1)C(=O)OCC)C | C17H24N2O5
